US06921759B2
5-(1,1-dioxidoisothiazolidin-2-yl)-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide
A mixture of 1,3 propanesultam (prepared as in White et al, J. Org Chem. 1987, 52: 2162) (0.081 g, 0.66 mmol), 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide (0.10 g, 0.27 mmol), potassium carbonate (0.092 g, 0.66 mmol) and copper powder (0.017 g, 0.27 mmol) under an atmosphere of argon was stirred at 160C for 16 hr. The reaction was allowed to cool to room temperature and the residue was treated with DMF (5 mL) and TFA (1.5 mL) and filtered through a pad of celite to remove the solids. The filtrate was purified by reverse phase HPLC. (Waters PrePak 500 cartridge C18, Gradient elution with Water:Acetonitrile 95:5 to 5:95 with 0.1% TFA at 75 mL/min over 45 mins). Lyophilization of the pure fractions afforded the title compound as an off white solid.

reactant | 1,3 propanesultam | 0.66 mmol, 0.081 g | C1CNS(=O)(=O)C1 | C3H7NO2S
reactant | 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide | 0.27 mmol, 0.10 g | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O | C16H11BrFN3O2
reactant | potassium carbonate | 0.66 mmol, 0.092 g | C([O-])([O-])=O.[K+].[K+]
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | copper | 0.27 mmol, 0.017 g | [Cu] | Cu
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-(1,1-dioxidoisothiazolidin-2-yl)-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide | O=S1(N(CCC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O)=O | C19H17FN4O4S
